US06784167B2
(±)-(4R*,5R*)-5-[(1S*)Hydroxy(5-phenyl(2-thienyl))methyl]-4-(4-(ethoxycarbonyl)-phenyl)-1-methylpyrrolidin-2-one (0.046 g, 0.106 mmol) was dissolved in THF (1 mL) under Ar. A solution of LiBH4 (2M in THF, 0.10 mL, 0.21 mmol) was added and the resulting mixture was stirred at room temperature for 18 h. Additional LiBH4 solution (0.5 mL, 1.0 mmol) was added and the reaction was stirred for 24 h. The reaction was treated with a 1M HCl solution, followed by water and the resulting mixture was extracted with EtOAc. The combined organic layers were dried (MgSO4) and concentrated under reduced pressure. The crude product was purified by HPLC to yield (±)-(4R*,5R*)-5-[(1S*)hydroxy(5-phenyl(2-thienyl))methyl]-4-[4-(hydroxymethyl)-phenyl]-1-methylpyrrolidin-2-one (9 mg, 20%) as a white solid: mp 205° C.; TLC (EtOAc)Rf 0.24.

reactant | (±)-(4R*,5R*)-5-[(1S*)Hydroxy(5-phenyl(2-thienyl))methyl]-4-(4-(ethoxycarbonyl)-phenyl)-1-methylpyrrolidin-2-one | 0.106 mmol, 0.046 g | O[C@@H]([C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)C(=O)OCC)C=1SC(=CC1)C1=CC=CC=C1 | C25H25NO4S
reactant | LiBH4 | 0.21 mmol, 2M, 0.10 mL | [Li+].[BH4-]
reactant | LiBH4 | 1.0 mmol, 0.5 mL | [Li+].[BH4-]
reactant | HCl | 1M | Cl | ClH
reactant | water | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | (±)-(4R*,5R*)-5-[(1S*)hydroxy(5-phenyl(2-thienyl))methyl]-4-[4-(hydroxymethyl)-phenyl]-1-methylpyrrolidin-2-one | 9 mg, 20% | O[C@@H]([C@H]1[C@H](CC(N1C)=O)C1=CC=C(C=C1)CO)C=1SC(=CC1)C1=CC=CC=C1 | C23H23NO3S
